US06201122B1
Comparative Example C5 was prepared by the Michael addition of C8F17SO2N(C2H5)H to acrylic acid to produce C8F17SO2N(C2H5)CH2CH2CO2H. GLC analysis indicated about 20% unreacted starting material was present. The acid was then converted to the potassium salt.

reactant | C8F17SO2N(C2H5)H | C(F)(F)(C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)F)S(=O)(=O)NCC | C10H6F17NO2S
reactant | acrylic acid | C(C=C)(=O)O | C3H4O2
product | C8F17SO2N(C2H5)CH2CH2CO2H | C(F)(F)(C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)F)S(=O)(=O)N(CC)CCC(=O)O | C13H10F17NO4S
